US07098338B2
A. 4-Carbobenzyloxy-1-(4,5-Difluoro-2-Nitrophenyl)-Piperazine-2-Carboxylic Acid.
By the same procedure described for example 2 method 2B, from 1.5 g of racemic 4-carbobenzyloxypiperazine-2-carboxylic acid and 1,2,4-trifluoro-5-nitro-benzene, there was obtained 0.4 g (16.7%) of title compound as an orange-red residue.

reactant | racemic 4-carbobenzyloxypiperazine-2-carboxylic acid | 1.5 g | C(=O)(OCC1=CC=CC=C1)N1CC(NCC1)C(=O)O | C13H16N2O4
reactant | 1,2,4-trifluoro-5-nitro-benzene | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)F | C6H2F3NO2
product | 4-Carbobenzyloxy-1-(4,5-Difluoro-2-Nitrophenyl)-Piperazine-2-Carboxylic Acid | 0.4 g, 16.7% | C(=O)(OCC1=CC=CC=C1)N1CC(N(CC1)C1=C(C=C(C(=C1)F)F)[N+](=O)[O-])C(=O)O | C19H17F2N3O6
